US08207344B2
3: 4-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol
A mixture of 4-(4-bromo-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine (23.50 g, 74.32 mmol), potassium hydroxide (14.72 g, 222.95 mmol), 2-di-tert-butylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl (2.52 g, 5.95 mmol) and tris(dibenzylideneacetone)dipalladium (0) (1.36 g, 1.49 mmol) is purged with nitrogen, and then deoxygenated 1,4-dioxane (150 mL) and deoxygenated water (150 mL) are added. The mixture is stirred at 100° C. for 1 h. The mixture is cooled to 23° C. and 1 M aq hydrochloric acid is added until pH 2-3. The aqueous layer is extracted with ethyl acetate. The organic layers are combined, dried over anhydrous sodium sulfate, filtered, and the solvent is removed to obtain a red solid. Diethyl ether is added and the solid is filtered to obtain 16 g of the title compound as an off-white solid. MS (m/z) 254 (M+1).

reactant | 4-(4-bromo-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine | 74.32 mmol, 23.50 g | BrC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C | C12H14BrNO2S
reactant | potassium hydroxide | 222.95 mmol, 14.72 g | [OH-].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium | 1.49 mmol, 1.36 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-di-tert-butylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl | 5.95 mmol, 2.52 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 4-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol | 16 g | CS(=O)(=O)N1CCC(=CC1)C1=CC=C(C=C1)O | C12H15NO3S
